US07030118B2
D) (±)-{2-[[1-(3-Benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-(4-chloro-benzoyl)-amino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester
{2-[1-(3-Benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester (70 mg, 0.15 mmol) and 4-chlorobenzoylchloride (81.0 mg, 0.463 mmol) in CHCl3 (20 mL) was treated with Et3N (20.8 mg, 0.385 mmol). The reaction mixture was stirred at 25° C. for 18 h then concentrated under vacuum. The residue was and purified by preparative HPLC using a YMC S10 ODS 30×100 mm column to afford the desired material (52.2 mg, 57%) as a white powder: 1H NMR (CD3OD, 400 MHz) δ 7.55 (s, 1H), 7.45 (m, 5H), 7.08 (m, 1H), 6.67 (m, 1H), 5.87 (m, 1H), 3.93 (m, 1H), 3.72 (m, 1H), 3.48 (m, 1H), 3.30 (s, 1H), 1.81 (m, 1H), 1.38 (s, 9H), 1.17 (m, 3H), 0.90 (m, 3H), 0.54 (m, 3H); LC/MS (ESI+) 592 (M++H).

reactant | {2-[1-(3-Benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 0.15 mmol, 70 mg | C(C)(C)(C)OC(NC(CNC(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2)(C)C)=O | C25H35N5O3
reactant | 4-chlorobenzoylchloride | 0.463 mmol, 81.0 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | Et3N | 0.385 mmol, 20.8 mg | CCN(CC)CC | C6H15N
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | (±)-{2-[[1-(3-Benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-(4-chloro-benzoyl)-amino]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 52.2 mg, 57% | C(C)(C)(C)OC(NC(CN(C(C1=CC=C(C=C1)Cl)=O)C(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2)(C)C)=O | C32H38ClN5O4
